US05455273
v) trans-N-(4-chlorobenzoyl)-N-propargyl-4-[4-(3-hydroxypropyl)methylaminomethylphenyl]cyclohexylamine
from trans-N-(4-chlorobenzoyl)-N-propargyl-4-(4-methylaminomethylphenyl)cyclohexylamine and 3-bromo-1-propanol. Oil. Rf value: 0.53 (alumina, methylene chloride/methanol=50:1, v:v).

reactant | trans-N-(4-chlorobenzoyl)-N-propargyl-4-(4-methylaminomethylphenyl)cyclohexylamine | ClC1=CC=C(C(=O)N(CC#C)[C@@H]2CC[C@H](CC2)C2=CC=C(C=C2)CNC)C=C1 | C24H27ClN2O
reactant | 3-bromo-1-propanol | BrCCCO | C3H7BrO
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | trans-N-(4-chlorobenzoyl)-N-propargyl-4-[4-(3-hydroxypropyl)methylaminomethylphenyl]cyclohexylamine | ClC1=CC=C(C(=O)N(CC#C)[C@@H]2CC[C@H](CC2)C2=C(C=C(C=C2)CCCO)CNC)C=C1 | C27H33ClN2O2
